US08013010B2
2,3-Difluoro-5-(2-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 58, starting from 5-bromo-2,3-difluorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation VIII, and 2-chloropyridine, the expected compound is obtained in the form of a crude product used without further purification in the deacetylation stage.

reactant | 5-bromo-2,3-difluorophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C(=CC(=C2)Br)F)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H17BrF2O7S
reactant | 2-chloropyridine | ClC1=NC=CC=C1 | C5H4ClN
product | 2,3-Difluoro-5-(2-pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C(=CC(=C2)C2=NC=CC=C2)F)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H21F2NO7S
